US05140031
A. N-cyano-N'-phenylthiourea
To a suspension of monosodium cyanamide (6.4 g, 100 mmol) in absolute ethanol (170 mL), phenylisothiocyanate (12.5 mL, 104.5 mmol) was added slowly with stirring at room temperature. The reaction was allowed to stir at room temperature for 1 hour and then heated at 75° C. for 4 hours. The reaction was cooled to room temperature and the colorless solid was filtered and washed with ethanol to give the title A compound (13.6 g), m.p. >250° C.

reactant | monosodium cyanamide | 100 mmol, 6.4 g | N#CN.[Na]
reactant | phenylisothiocyanate | 104.5 mmol, 12.5 mL | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | ethanol | 170 mL | C(C)O | C2H6O
product | N-cyano-N'-phenylthiourea | 13.6 g | C(#N)NC(=S)NC1=CC=CC=C1 | C8H7N3S
